US07528143B2
5-Methyl-N2-(4-morpholin-4-ylmethyl-phenyl)-pyrimidine-2,4-diamine (Intermediate 39)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.40 g, 2.8 mmol) and 4-morpholin-4-ylmethyl-phenylamine (0.60 g, 3.1 mmol) in acetic acid (15 mL) was heated at 70° C. for 17 h. After cooling to room temperature, the mixture was concentrated. The residue was taken in water (30 mL) and neutralized with 10% NaOH solution until pH ˜10. The resulting aqueous layer was extracted with EtOAc (2×30 mL) and the combined organic layers washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated to afford the title compound as a brown syrup (0.70 g, 83%). It was used in the next step without purification. MS (ES+): m/z 300 (M+H)+.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 2.8 mmol, 0.40 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-morpholin-4-ylmethyl-phenylamine | 3.1 mmol, 0.60 g | N1(CCOCC1)CC1=CC=C(C=C1)N | C11H16N2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 5-Methyl-N2-(4-morpholin-4-ylmethyl-phenyl)-pyrimidine-2,4-diamine | 0.70 g, 83% | CC=1C(=NC(=NC1)NC1=CC=C(C=C1)CN1CCOCC1)N | C16H21N5O
